US04247548
3-Hydroxy-5-methylisoxazole was reacted with benzoyl chloride in the presence of triethylamine to give 3-benzoyloxy-5-methylisoxazole, which was then reacted with N-bromosuccinimide, to give 3-benzoyloxy-5-bromomethylisoxazole. This was reacted with disodium thioglycolate to give 3-hydroxyisoxazol-5-ylmethylthioacetic acid, which was treated with diphenyldiazomethane to give the benzhydryl ester.

reactant | 3-Hydroxy-5-methylisoxazole | OC1=NOC(=C1)C | C4H5NO2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-benzoyloxy-5-methylisoxazole | C(C1=CC=CC=C1)(=O)OC1=NOC(=C1)C | C11H9NO3
